US04335054
1,4-Bis-(2-ethoxycarbonyl-vinyl)-naphthalene
0.0561 g (0.25 millimol) of palladium acetate, 3.16 g (12.5 millimols) of naphthalene-1,4-dicarboxylic acid dichloride, 3.12 g (31.25 millimols) of ethyl acrylate and 4.63 g (25 millimols) of tri-n-butylamine in 150 ml of p-xylene are stirred for 2 hours at 120° C. The crude product is chromatographed on silica gel in methylene chloride, and then recrystallised from cyclohexane. 2.31 g (57% of theory) of pale yellow crystals, of melting point 90°-91° C., are obtained. Analysis for C20H20O4 : calculated C 74.06%, H 6.22%, O 19.73%; found C 74.04%, H 6.17%, O 19.72%.

reactant | naphthalene-1,4-dicarboxylic acid dichloride | 12.5 millimols, 3.16 g | C1(=CC=C(C2=CC=CC=C12)C(=O)Cl)C(=O)Cl | C12H6Cl2O2
reactant | ethyl acrylate | 31.25 millimols, 3.12 g | C(C=C)(=O)OCC | C5H8O2
reactant | tri-n-butylamine | 25 millimols, 4.63 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | p-xylene | 150 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 0.25 millimol, 0.0561 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1,4-Bis-(2-ethoxycarbonyl-vinyl)-naphthalene | C(C)OC(=O)C=CC1=CC=C(C2=CC=CC=C12)C=CC(=O)OCC | C20H20O4
